US05885999
b) N,N-Dimethyl-[2-(piperazin-1-yl)phenyl]methylamine Dihydrochloride
Methanolic hydrogen chloride (4M, 2.5 mL) was added to a stirred, cooled (0° C.) solution of N,N-dimethyl-2-(4-t-butoxycarbonylpiperazin-1-yl)phenylmethylamine (392 mg, 1.2 mmol) in methanol (1 mL) and the mixture was stirred at room temperature for 4 h. The solvent was evaporated under reduced pressure to give the title compound as a colorless solid (350 mg, 100%), δH (360 MHz, d6 -DMSO) 9.92 (1H, br s), 9.26 (2H, br s), 7.62 (1H, d, J 7.7 Hz), 7.49 (1H, t, J 7.7 Hz), 7.31 (2H, m), 4.30 (2H, d, J 5.5 Hz), 3.31 (4H, m), 3.04 (4H, m), 2.73 (3H, s), and 2.72 (3H, s). m/e (ES+) 220 (MH+).

reactant | hydrogen chloride | 4M, 2.5 mL | Cl | ClH
reactant | N,N-dimethyl-2-(4-t-butoxycarbonylpiperazin-1-yl)phenylmethylamine | 1.2 mmol, 392 mg | CN(C)CC1=C(C=CC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H29N3O2
solvent | methanol | 1 mL | CO | CH4O
product | N,N-Dimethyl-[2-(piperazin-1-yl)phenyl]methylamine Dihydrochloride | 350 mg, 100% | Cl.Cl.CN(C)CC1=C(C=CC=C1)N1CCNCC1 | InChI=1S/C13H21N3.2ClH/c1-15(2)11-12-5-3-4-6-13(12)16-9-7-14-8-10-16;;/h3-6,14H,7-11H2,1-2H3;2*1H
